US05589478
To a solution of 4-tert-butyl-N-{6-[2-(4-hydroxyphenoxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide (200 mg) in dimethylformamide (2 ml) is added sodium hydride (60% dispersion-type, 32 mg), and the mixture is stirred at room temperature for 30 minutes. To the mixture is added a solution of tert-butyl bromoacetate (77 mg) in dimethylformamide (2 ml) under ice-cooling, and the mixture is stirred at the same temperature for one hour. The reaction solution is poured into ice-water, and treated with saturated aqueous ammonium chloride solution, and extracted with ethyl acetate. The ethyl acetate layer is washed, dried and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; hexane/ethyl acetate=3:1), and crystallized from ethyl acetate/diisopropyl ether to give tert-butyl 4-{2-(6-(4-tert-butybenzenesulfonylamino)-5-(4-methylphenyl)pyrimidin-4-yloxy)ethoxy}phenoxyacetate (225 mg).

reactant | 4-tert-butyl-N-{6-[2-(4-hydroxyphenoxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide | 200 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=CC=C(C=C1)O | C29H31N3O5S
reactant | sodium hydride | 32 mg | [H-].[Na+]
reactant | tert-butyl bromoacetate | 77 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | tert-butyl 4-{2-(6-(4-tert-butybenzenesulfonylamino)-5-(4-methylphenyl)pyrimidin-4-yloxy)ethoxy}phenoxyacetate | 225 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NC=N1)OCCOC1=CC=C(OCC(=O)OC(C)(C)C)C=C1)C1=CC=C(C=C1)C | C35H41N3O7S
